US08563573B2
To a deoxygenated solution of (6-chloro-4-iodo-pyridin-3-yl)-carbamic acid tert-butyl ester (23.3 g, 65.6 mmol), 3,3-dimethyl-but-1-yne (53.8 g, 0.656 mol), CuI (623 mg, 3.3 mmol) and triethylamine (13.3 g, 0.13 mol) in toluene (150 mL) and water (50 mL) was added Pd(PPh3)2Cl2 (2.30 g, 3.28 mmol) under N2. The mixture was heated at 70° C. and stirred for 24 hours. The solid was filtered off and washed with ethyl acetate (200 mL×3). The filtrate was evaporated under reduced pressure to obtain a residue, which was purified by column (petroleum ether/ethyl acetate=10/1) to give [6-chloro-4-(3,3-dimethyl-but-1-ynyl)-pyridin-3-yl]-carbamic acid tert-butyl ester (15.8 g, 78%). 1H NMR (300 MHz, CDCl3) δ 9.10 (br s, 1H), 7.21 (s, 1H), 6.98 (br s, 1H), 1.53 (s, 9H), 1.36 (s, 9H).

reactant | (6-chloro-4-iodo-pyridin-3-yl)-carbamic acid tert-butyl ester | 65.6 mmol, 23.3 g | C(C)(C)(C)OC(NC=1C=NC(=CC1I)Cl)=O | C10H12ClIN2O2
reactant | 3,3-dimethyl-but-1-yne | 0.656 mol, 53.8 g | CC(C#C)(C)C | C6H10
reactant | triethylamine | 0.13 mol, 13.3 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 50 mL | O | H2O
catalyst | CuI | 3.3 mmol, 623 mg | [Cu]I
catalyst | Pd(PPh3)2Cl2 | 3.28 mmol, 2.30 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | [6-chloro-4-(3,3-dimethyl-but-1-ynyl)-pyridin-3-yl]-carbamic acid tert-butyl ester | 15.8 g, 78% | C(C)(C)(C)OC(NC=1C=NC(=CC1C#CC(C)(C)C)Cl)=O | C16H21ClN2O2
